* PSpice Model Editor - Version 17.2.0
*$
* TLV7041
*****************************************************************************
* (C) Copyright 2019 Texas Instruments Incorporated. All rights reserved.
*****************************************************************************
** This model is designed as an aid for customers of Texas Instruments.
** TI and its licensors and suppliers make no warranties, either expressed
** or implied, with respect to this model, including the warranties of 
** merchantability or fitness for a particular purpose.  The model is
** provided solely on an "as is" basis.  The entire risk as to its quality
** and performance is with the customer.
*****************************************************************************
*
* This model is subject to change without notice. Texas Instruments
* Incorporated is not responsible for updating this model
*
*****************************************************************************
*
** Released by: Texas Instruments Inc.
* Part: TLV7041
* Date: 08/04/2020
* Model Type: All In One
* Simulator: PSPICE 
* Simulator Version: 17.2.0.p001
* EVM Order Number: N/A 
* EVM Users Guide:  N/A 
* Datasheet: SLVSE13F - June 2020
*
* Model Version: 1.0
*
*****************************************************************************
*
* Updates:
*
* Version 1.0 : Release to Web
*         2.0 : Improving Convergence
*
*****************************************************************************
* Notes:
* The following parameters are modeled: 
* Iq, tpd, Ibias, Vcm, Vs, Vhyst, Voh/Vol
*
*****************************************************************************
* source TLV7041
.SUBCKT TLV7041 IN+ IN- OUT V+ V-  
X_U1 IN+ IN- OUT V+ V- TOPLEVELSCHEMATIC  
.ENDS
 
.SUBCKT TOPLEVELSCHEMATIC IN+ IN- OUT V+ V-  
X_U7         IN+_BUFF IN-_BUFF N00308 V+_BUFF V-_BUFF N00366 HPA_COMPHYS
X_U4 IN-_BUFF IN+_BUFF N00323 V+_BUFF V-_BUFF INPUTRANGE  
X_U6 N00316 N00323 V+_BUFF V-_BUFF N00312 OUT OUTPUTSTAGE  
X_U3 IN+ N001101 IN- N001103 INBUFF  
X_U2 N00316 V+_BUFF V-_BUFF SUPPLYRANGE  
X_U1 V+ V+_BUFF V- V-_BUFF SUPPLYBUFFER  
X_U5 N00308 N00312 PROPDELAY  
V_V1         N00366 0 7m
I_I1         V+ 0 DC 335n  
I_I2         IN+ 0 DC 2p  
I_I3         IN- 0 DC 2p  
X_U8 N001103 IN-_BUFF N001101 IN+_BUFF V+_BUFF V-_BUFF POR  
.ENDS
 
.SUBCKT POR INN INNNEW INP INPNEW V+_BUFFER V-_BUFFER  
V_V2         N19358 0 5
X_U16         N19740 V+_BUFFER INP INPNEW N194834 0 INPNEWPOR
V_V3         N194834 0 5
V_V1         N19288 0 1.6V
X_U14         N19288 N19122 N19740 N19358 0 PORCHECK
X_U13         V+_BUFFER V-_BUFFER N19122 V+_BUFFER V-_BUFFER DIFFERENCE
X_U15         N19740 V-_BUFFER INN INNNEW N194424 0 INNNEWPOR
V_V4         N194424 0 5
.ENDS
 
.SUBCKT PROPDELAY VIN VOUT  
T_T1         VIN 0 VOUT 0 Z0=50 TD=3u  
R_R1         0 VOUT  50 TC=0,0 
.ENDS
 
.SUBCKT SUPPLYBUFFER V+ V+_BUFFER V- V-_BUFFER  
X_U1         V+ V- V+_BUFFER V-_BUFFER SUPPLY_BUFFER1 
.ENDS
 
.SUBCKT SUPPLYRANGE EN V+_BUFFER V-_BUFFER  
X_U5         N18928 N18958 N18940 V+_BUFFER V-_BUFFER VCC_RANGE
V_V4         N19230 0 -.3
X_U15         N18958 N19230 N19104 V+_BUFFER V-_BUFFER VCC_Range
V_V5         N19172 0 5
V_V1         N18928 0 7
X_U13         V+_BUFFER V-_BUFFER N18958 V+_BUFFER V-_BUFFER DIFFERENCE
X_U17         N19100 0 N19172 EN V+_BUFFER V-_BUFFER ENABLE_TLV7021
X_U16          N18940 N19104 N19100 V+_BUFFER V-_BUFFER ANDGATE
.ENDS
 
.SUBCKT INBUFF IN+ IN+_BUFF IN- IN-_BUFF  
X_U1         IN+ IN- IN+_BUFF IN-_BUFF SUPPLY_BUFFER1 
.ENDS
 
.SUBCKT OUTPUTSTAGE EN INRANGE V+_BUFFER V-_BUFFER VIN VOUT  
V_V3         5V 0 5
X_U3         VIN N772678 V+_BUFFER V-_BUFFER N772534 V-_BUFFER DIGLEVSHIFT
Q_Q1         N775848 N773140 V-_BUFFER NPN1 
X_U8         INRANGE EN CONTROL 5V 0 ORGATE
V_V1         N772534 V+_BUFFER 1
X_U5         N772678 N773140 N772534 V-_BUFFER INVERTER
X_U7         N776980 V+_BUFFER V-_BUFFER MID_SUPPLY
X_S3    CONTROL 0 N776699 MID OUTPUTSTAGE_S3 
X_S4    CONTROL 0 VOUT N775848 OUTPUTSTAGE_S4 
V_V4         N776980 MID -0.7
D_D1         N776699 VOUT Dbreak 
.ENDS
 
.SUBCKT INPUTRANGE INN INP INRANGE V+_BUFFER V-_BUFFER  
X_U18         N24659 N24743 N24733 V+_BUFFER V-_BUFFER ORGATE
X_U2         N24835 INN N24743 V+_BUFFER V-_BUFFER VINRANGE_393
V_V3         N25117 V-_BUFFER -.3
X_U19         N25095 N25203 N24963 V+_BUFFER V-_BUFFER ORGATE
V_V4         N25311 V-_BUFFER -.3
X_U1         N24639 INP N24659 V+_BUFFER V-_BUFFER VINRANGE_393
V_V1         N24639 0 6
X_U20         N24733 N24963 0 N26592 INRANGE V+_BUFFER V-_BUFFER ORGATE1701
X_U3         INP N25117 N25095 V+_BUFFER V-_BUFFER VINRANGE_393
V_V5         N26592 0 5
V_V2         N24835 0 6
X_U17         INN N25311 N25203 V+_BUFFER V-_BUFFER VINRANGE_393
.ENDS

.subckt OUTPUTSTAGE_S3 1 2 3 4  
S_S3         3 4 1 2 _S3
RS_S3         1 2 1G
.MODEL         _S3 VSWITCH Roff=1e12 Ron=1.0 Voff=0 Von=5
.ends OUTPUTSTAGE_S3

.subckt OUTPUTSTAGE_S4 1 2 3 4  
S_S4         3 4 1 2 _S4
RS_S4         1 2 1G
.MODEL         _S4 VSWITCH Roff=1e12 Ron=1.0 Voff=5 Von=0
.ends OUTPUTSTAGE_S4







.SUBCKT ANDGATE3_LOGIC 1 2 3 OUT VDD VSS
EOUT OUT 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) & (V(2)> (V(VDD)+V(VSS))/2 ) & (V(3)> (V(VDD)+V(VSS))/2)), V(VDD), V(VSS) ) }
C1 OUT 0 1e-12
.ENDS


.SUBCKT ANDGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)> (V(VDD)+V(VSS))/2 ) & (V(2)> (V(VDD)+V(VSS))/2 )), V(VDD), V(VSS) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS

.SUBCKT CMPOS 1 2 OUT VDD VSS 
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = { IF( ( V(1) > V(VMID) ), V(VSS), V(2) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT CMPOS_INN 1 2 OUT VDD VSS 
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = { IF( ( V(1) > V(VMID) ), V(VDD), V(2) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS


.SUBCKT HPA_COMPHYS INP INN OUT_OUT VDD VSS VHYS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EVH VH 0 VALUE = { ( V(VHYS)/2) }
EINNNEW INNNEW 0 VALUE = { IF( ( V(OUT) < V(VMID) ),(V(INN) + (V(VH))),( V(INN) - V(VH) ) ) }
EOUT OUT 0 VALUE = { IF( ( V(INP) > V(INNNEW) ), V(VDD), V(VSS) ) }
R1 OUT OUT_OUT 1
C1 OUT_OUT 0 1e-12
.ENDS

.SUBCKT DIGLEVSHIFT 1 2 VDD_OLD VSS_OLD VDD_NEW VSS_NEW
E1 3 0 VALUE = { IF( V(1) < (V(VDD_OLD)+V(VSS_OLD))/2, V(VSS_NEW), V(VDD_NEW) ) }
R1 3 2 1
C1 2 0 1e-12
.ENDS


.SUBCKT ENABLE_LOGIC 1 2 OUT VDD VSS 
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = { IF( ( V(1) > V(VMID) ), V(2), V(VSS) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS


.SUBCKT IBias_AND 1 2 3 OUT VDD VSS
EOUT OUT 0 VALUE = { IF( (V(1) & V(2)) >= (V(3)), VSS, VDD)}
C1 OUT 0 1e-12
.ENDS

.SUBCKT IBias_OR 1 2 3 OUT VDD VSS
EOUT OUT 0 VALUE = { IF( (V(1) & V(2)) >= (V(3)), VDD, VSS)}
C1 OUT 0 1e-12
.ENDS


.SUBCKT VIN_INV 1 2 VDD VSS
E2 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
C1 2 0 1e-12
.ENDS

.SUBCKT INVERTER 1 2 VDD VSS
E2 2 0 VALUE = { IF( V(1)> (V(VDD)+V(VSS))/2, V(VSS), V(VDD) ) }
C1 1 0 1e-12
.ENDS


.SUBCKT SupplyEnable 1 2 3 OUT VDD VSS 
EOUT OUT 0 VALUE = { IF( ((V(3) >= V(2) ) & (V(3) <= V(1))), V(VDD), V(VSS) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT ORGATE 1 2 3 VDD VSS
E1 4 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(VSS), V(VDD) ) }
R1 4 3 1
C1 3 0 1e-12
.ENDS

.SUBCKT Difference 1 2 OUT VDD VSS 
EOUT OUT 0 VALUE = { V(1)- V(2)}
R1 OUT 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT SUPPLY_BUFFER1 1 2 VDD_NEW VSS_NEW 
EVDD_NEW VDD_NEW 0 VALUE = {V(1)}
EVSS_NEW VSS_NEW 0 VALUE = {V(2)}
C1 2 0 1e-12
.ENDS

.SUBCKT VCC_Range 1 2 OUT VDD VSS 
EOUT OUT 0 VALUE = { IF( ( V(1) >= V(2) ), V(VDD), V(VSS) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT VINRANGE_393 1 2 OUT VDD VSS 
EOUT OUT 0 VALUE = { IF( ( V(1) >= V(2) ), V(VSS), V(VDD) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT HPA_INV 1 2 OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = { IF((V(1) < V(VMID)),V(2), IF( ((V(2) > V(VMID)) & (V(1) > V(VMID))), V(VSS), V(VDD)))}
C1 2 0 1e-12
.ENDS

.SUBCKT INPUTBUFFER 1 2 INPBUF INNBUF  
EINPBUF INPBUF 0 VALUE = {V(1)}
EINNBUF INNBUF 0 VALUE = {V(2)}
C1 2 0 1e-12
.ENDS

.SUBCKT ENABLE_TLV7021 1 2 3 OUT VDD VSS 
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = { IF( ( V(1) > V(VMID) ), V(2), V(3) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT ORGATE1701 1 2 3 4 OUT VDD VSS
EOUT OUT 0 VALUE = { IF( ((V(1)< (V(VDD)+V(VSS))/2 ) & (V(2)< (V(VDD)+V(VSS))/2 )), V(3), V(4) ) }
.ENDS

.SUBCKT MID_SUPPLY OUT VDD VSS
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = {V(VMID)}
.ENDS

.SUBCKT INNNEWPOR 1 2 3 OUT VDD VSS 
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = { IF( ( V(1) < V(VMID) ), V(2), V(3) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT INPNEWPOR 1 2 3 OUT VDD VSS 
EVMID VMID 0 VALUE = { ( V(VDD) + V(VSS) )/2 }
EOUT OUT 0 VALUE = { IF( ( V(1) < V(VMID) ), V(2), V(3) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS

.SUBCKT PORCHECK 1 2 OUT VDD VSS 
EOUT OUT 0 VALUE = { IF( ( V(2) < V(1) ), V(VSS), V(VDD) ) }
R1 OUT 2 1
C1 2 0 1e-12
.ENDS



.MODEL NPN1 NPN LEVEL=1 IS=1E-16 RB=850 RC=15 TF=4n

.MODEL PNP1 PNP LEVEL=1 IS=1E-16 RB=25 RC=35 TF=4n

.model Dbreak D Is=1e-14 Cjo=.1pF Rs=.1
